US05175157
2-(2-Bromoethyl)-1-[2-(3,4-dimethoxy-phenyl)-ethyl]hexahydro-azepine
4 ml of phosphorus tribromide are added dropwize to 2.9 g (9.4 mmol) of N-[2-(3,4-dimethoxy-phenyl)-ethyl]-2-(2-hydroxyethyl)-hexahydro-azepine in 100 ml of carbon tetrachloride, whilst cooling with ice, and the mixture is stirred for 15 hours at ambient temperature. Then water is added, whilst cooling with ice water is continued, and the mixture is made slightly alkaline with 2 molar sodium hydroxide solution. The aqueous/alkaline solution is separated off and extracted twice with methylene chloride. The combined organic solutions are dried over magnesium sulphate and concentrated by evaporation in vacuo. Yield: 3.6 g (100% of theory).

reactant | phosphorus tribromide | 4 ml | P(Br)(Br)Br | Br3P
reactant | N-[2-(3,4-dimethoxy-phenyl)-ethyl]-2-(2-hydroxyethyl)-hexahydro-azepine | 9.4 mmol, 2.9 g | COC=1C=C(C=CC1OC)CCN1C(CCCCC1)CCO | C18H29NO3
reactant | water | O | H2O
reactant | sodium hydroxide | 2 molar | [OH-].[Na+]
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-Bromoethyl)-1-[2-(3,4-dimethoxy-phenyl)-ethyl]hexahydro-azepine | BrCCC1N(CCCCC1)CCC1=CC(=C(C=C1)OC)OC | C18H28BrNO2
